US06703392B2
2-[1-(2,3,4-Trimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-ethoxy-benzyl)-acetamide:
prepared by reaction of 1-(2,3,4-Trimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-ethoxy-benzyl-amine

reactant | 1-(2,3,4-Trimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC1=C(CC2NCCC3=CC(=C(C=C23)OC)OC)C=CC(=C1OC)OC | C21H27NO5
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-ethoxy-benzyl-amine | C(C)OC1=C(CN)C=CC=C1 | C9H13NO
product | 2-[1-(2,3,4-Trimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-ethoxy-benzyl)-acetamide | COC1=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=C(C=CC=C2)OCC)C=CC(=C1OC)OC | C32H40N2O7
